US05569664
A stirred solution of 4.7 grams (0.020 mole) of 2,6-dimethoxyphenylmethyl bromide, 3.2 grams (0.020 mole) of ethyl piperidin-4-ylcarboxylate, and 23.5 grams (0.200 mole) of 50% potassium fluoride on Celite® filter aid in 100 mL of acetonitrile was heated at reflux for about 18 hours, after which the reaction mixture was cooled and filtered. The filtrate was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with mixtures of ethyl acetate in hexane as eluants. The product-containing fractions were combined and concentrated under reduced pressure to a residue. The residue was analyzed using thin layer chromatography, which indicated that the residue was impure. The residue was again subjected to column chromatography on silica gel, with mixtures of ethyl acetate in hexane and methanol in ethyl acetate as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding about one gram of ethyl N-(2,6-dimethoxyphenylmethyl)piperidin-4-ylcarboxylate. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-dimethoxyphenylmethyl bromide | 0.020 mole, 4.7 grams | COC1=C(C(=CC=C1)OC)CBr | C9H11BrO2
reactant | ethyl piperidin-4-ylcarboxylate | 0.020 mole, 3.2 grams | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | potassium fluoride | 0.200 mole, 23.5 grams | [F-].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl N-(2,6-dimethoxyphenylmethyl)piperidin-4-ylcarboxylate | about one gram | COC1=C(C(=CC=C1)OC)CN1CCC(CC1)C(=O)OCC | C17H25NO4
